US08110585B2
methyl 3-amino-6-fluoro-2-methylbenzoate
To a solution of a crudely purified product (27.7 g, 130 mmol) of methyl 6-fluoro-2-methyl-3-nitrobenzoate in methanol (260 mL) was added palladium carbon (6.00 g, 10 wt %) and the mixture was stirred under hydrogen atmosphere for 12 hr. The catalyst was filtered off through celite, the filtrate was concentrated under reduced pressure, and the residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/1) to give the title compound (15.0 g, yield 63%).

reactant | methyl 6-fluoro-2-methyl-3-nitrobenzoate | 130 mmol, 27.7 g | FC1=CC=C(C(=C1C(=O)OC)C)[N+](=O)[O-] | C9H8FNO4
solvent | methanol | 260 mL | CO | CH4O
catalyst | palladium carbon | 6.00 g | [C].[Pd]
product | methyl 3-amino-6-fluoro-2-methylbenzoate | 15.0 g, yield 63% | NC=1C(=C(C(=O)OC)C(=CC1)F)C | C9H10FNO2
